US04584290
To a solution of benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)glyoxylamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (3.1 g) in a mixture of methanol (16 ml) and tetrahydrofuran (16 ml) was added sodium borohydride (0.033 g) under ice-cooling and the mixture was stirred for 10 minutes. The reaction mixture was adjusted to pH 7.0 with 10% hydrochloric acid and extracted with ethyl acetate. The separated organic layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo to give benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-hydroxyacetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate (trans isomer) (2.84 g).

reactant | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)glyoxylamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate | 3.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C51H39N5O5S3
reactant | sodium borohydride | 0.033 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 16 ml | CO | CH4O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-(2-tritylaminothiazol-4-yl)-2-hydroxyacetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate | 2.84 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)O | C51H41N5O5S3
